US09120749B2
1-(6-bromo-4-((1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (285 mg, 1.0 mmol) was reacted with 1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-amine (0.30 g, 1.66 mmol) to afford the desired product (223 mg, 52%) as a light yellow solid. ESI MS m/z 428 [C20H22BrN5O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.0 mmol, 285 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-amine | 1.66 mmol, 0.30 g | CN1CCC(CC1)N1N=CC(=C1)N | C9H16N4
product | 1-(6-bromo-4-((1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone | 223 mg, 52% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NN(C1)C1CCN(CC1)C | C20H22BrN5O
